US08067415B2
A slurry of water (20 μL, 0.10 mmol), 1-(4-methoxyphenyl)-1,5-dihydro-2H-pyrrol-2-one (200 mg, 1.06 mmol) and N-{2-oxo-2-[(3R)-pyrrolidin-3-ylamino]ethyl}-3-(trifluoromethyl)benzamide (666 mg, 2.12 mmol) was heated to 90° C. overnight. The crude mixture was subjected to flash chromatography (1% NH4OH, 15% MeOH, EtOAc) to afford, as a mixture of diastereomers, N-(2-{[(3R)-1′-(4-methoxyphenyl)-5′-oxo-1,3′-bipyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide as a white solid (115 mg, 21%). 1H-NMR (CDCl3) δ: 1.50-1.82 (m, 1H), 1.83-2.00 (m, 1H), 2.18-2.40 (m, 1H), 2.40-2.58 (m, 1H), 2.56-2.81 (m, 3H), 2.83-3.00 (m, 2H), 3.29-3.33 (m, 2H), 3.60-3.71 (m, 2H), 3.79 (s, 3H), 4.04-4.20 (m, 2H), 4.38-4.47 (m, 1H), 6.94 (m, 2H), 7.19-7.30 (m, 2H), 7.69-7.80 (m, 2H), 7.99 (d, J=7.8 Hz, 1H), 8.18 (s, 1H). MS m/z: 505 (M+1).

reactant | water | 0.10 mmol, 20 μL | O | H2O
reactant | 1-(4-methoxyphenyl)-1,5-dihydro-2H-pyrrol-2-one | 1.06 mmol, 200 mg | COC1=CC=C(C=C1)N1C(C=CC1)=O | C11H11NO2
reactant | N-{2-oxo-2-[(3R)-pyrrolidin-3-ylamino]ethyl}-3-(trifluoromethyl)benzamide | 2.12 mmol, 666 mg | O=C(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)N[C@H]1CNCC1 | C14H16F3N3O2
reactant | NH4OH | [NH4+].[OH-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | CO | CH4O
product | N-(2-{[(3R)-1′-(4-methoxyphenyl)-5′-oxo-1,3′-bipyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | 115 mg, 21% | COC1=CC=C(C=C1)N1CC(CC1=O)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C25H27F3N4O4
